### PR TITLE
[Merged by Bors] - feat(Topology/Maps): add `Continuous.isClosed_graph` and `continuous_of_isClosed_graph`

### PR DESCRIPTION
**Pull request by MaxFeldman1**
Add new results relating continuity of `f : X → Y` to closedness of `Function.graph f` into `Topology/Maps`

* `Continuous.isClosed_graph`: when Y is Hausdorff and f is continuous then f has a closed graph.
* `continuous_of_isClosed_graph`: when Y is a compact space and f has a closed graph then f is continuous.
* `continuous_iff_isClosed_graph`: the bidirectional result when Y is both compact and Hausdorff.

-------

I started by placing these functions in a new file but have after feedback have changed to put these into existing files, specifically `Continuous.isClosed_graph` is in `Mathlib/Topology/Separation/Hausdorff.lean` and the other two are in `Mathlib/Topology/Maps/Proper/Basic.lean`

AI usage: I drafted the theorem statements. Claude Fable 5 modified naming and style to match mathlib conventions, chose the file placement, and wrote the proofs, which I reviewed step by step.

### CODE REVIEW

File: Mathlib/Topology/Maps/ClosedGraph.lean [hunk 1]
```diff
@@ -0,0 +1,52 @@
...
+We relate continuity of a function `f : X → Y` between topological spaces to closedness of its
+graph `Function.graph f : Set (X × Y)`.
+
+## Main results
+
+* `Continuous.isClosed_graph`: a continuous function into a Hausdorff space has a closed graph.
+* `continuous_of_isClosed_graph`: a function into a compact space with a closed graph is
+  continuous.
+* `continuous_iff_isClosed_graph`: a function into a compact Hausdorff space is continuous if and
+  only if its graph is closed.
```
Comment (scholzhannah) [inline Mathlib/Topology/Maps/ClosedGraph.lean]: Not all theorems need to go into the main results section. I think you can just put the last one and leave out the first two.

File: Mathlib/Topology/Maps/ClosedGraph.lean [hunk 2]
```diff
@@ -0,0 +1,52 @@
...
+
+/-- A function into a compact space with a closed graph is continuous. -/
+theorem continuous_of_isClosed_graph [CompactSpace Y] (hf : IsClosed f.graph) : Continuous f := by
+  rw [continuous_iff_isClosed]
+  intro C hC
+  have h : f ⁻¹' C = Prod.fst '' (f.graph ∩ univ ×ˢ C) := by
+    ext x
+    simp [Function.graph]
+  rw [h]
+  exact isClosedMap_fst_of_compactSpace _ (hf.inter (isClosed_univ.prod hC))
```
Comment (scholzhannah) [inline Mathlib/Topology/Maps/ClosedGraph.lean]:
```suggestion
  exact h ▸ isClosedMap_fst_of_compactSpace _ (hf.inter (isClosed_univ.prod hC))
```
I think this is a little nicer than having this separate small rewrite but both are fine.

**Review by scholzhannah — COMMENTED** [review]
Thank you for your PR! I have left two small comments below. 
I am not entirely sure that these results warrant their own file. I think possibly they could just go into other files especially since the import increase should be marginal. Maybe someone else could also comment on this. For example @grunweg ?

**Comment by grunweg** [comment]
I agree with Hannah: please move this to an existing file (unless you intend to add lots of further material in future pull requests). `#find_home declaration_name` can help you find a useful place for your lemmas.

File: Mathlib/Topology/Maps/ClosedGraph.lean (hunk 1 above)
Comment (MaxFeldman1) [reply Mathlib/Topology/Maps/ClosedGraph.lean]: Made this change, now only the last one is mentioned in a file header comment

File: Mathlib/Topology/Maps/ClosedGraph.lean (hunk 2 above)
Comment (MaxFeldman1) [reply Mathlib/Topology/Maps/ClosedGraph.lean]: I agree, this looks better.

Added this change in

**Comment by MaxFeldman1** [comment]
@grunweg I have moved the theorem `Continuous.isClosed_graph` I put into `Topology/Separation/Hausdorff.lean` because it is a quick corollary to `isClosed_eq`.

The theorems `continuous_of_isClosed_graph` and `continuous_iff_isClosed_graph` I moved to `Topology/Maps/Proper/Basic.lean` because they rely on `isClosedMap_fst_of_compactSpace`

In both files I had to add an import of `Mathlib.Basic.Rel`

**Comment by MaxFeldman1** [comment]
@scholzhannah ready for review

**Comment by mcdoll** [comment]
If it is ready for review please remove the `awaiting-author` tag. Please also update the PR description (and write the PR description by hand).
Are there any cases where your new lemmas can be used?

**Comment by MaxFeldman1** [comment]
-awaiting-author

**Comment by MaxFeldman1** [comment]
@mcdoll I have rewritten the PR description by hand

I checked for existing proofs that the new theorems this PR introduces could simplify and found none. These results will simplify other statements yet to be included in mathlib, one example I've found is that you could use this along with `isEmbedding_graph` from `Topology/Constructions/SumProd.lean` to show that if `f: X \to Y` is continuous and `Y` is Hausdorff then the map  `x \mapsto (x, fx)` is a closed embedding, it looks like lots of properties come from closed embedding i.e. `IsClosedEmbedding.polishSpace`. Also these results appear in Munkres' popular Topology text which many undergrads (including myself) read.

File: Mathlib/Topology/Separation/Hausdorff.lean [hunk 3]
```diff
@@ -500,6 +501,11 @@ theorem isOpen_ne_fun [T2Space X] {f g : Y → X} (hf : Continuous f) (hg : Cont
     IsOpen { y : Y | f y ≠ g y } :=
   isOpen_compl_iff.mpr <| isClosed_eq hf hg
 
+/-- The graph of a continuous function into a Hausdorff space is closed. -/
+theorem Continuous.isClosed_graph [T2Space X] {f : Y → X} (hf : Continuous f) :
+    IsClosed f.graph :=
```
Comment (scholzhannah) [inline Mathlib/Topology/Separation/Hausdorff.lean]:
```suggestion
theorem Continuous.isClosed_graph [T2Space X] {f : Y → X} (hf : Continuous f) : IsClosed f.graph :=
```
This fits on one line.

File: Mathlib/Topology/Maps/Proper/Basic.lean [hunk 4]
```diff
@@ -346,3 +349,20 @@ theorem IsProperMap.universally_closed (Z) [TopologicalSpace Z] (h : IsProperMap
...
   -- `f × id` is proper as a product of proper maps, hence closed.
   (h.prodMap isProperMap_id).isClosedMap
+
+/-- A function into a compact space with a closed graph is continuous. -/
+theorem continuous_of_isClosed_graph [CompactSpace Y] (hf : IsClosed f.graph) : Continuous f := by
+  rw [continuous_iff_isClosed]
+  intro C hC
+  have h : f ⁻¹' C = Prod.fst '' (f.graph ∩ univ ×ˢ C) := by
+    ext x
+    simp [Function.graph]
```
Comment (scholzhannah) [inline Mathlib/Topology/Maps/Proper/Basic.lean]:
```suggestion
    simp [graph]
```
This file has the `Function` namespace open, so you can just write it like this.

File: Mathlib/Topology/Maps/Proper/Basic.lean [hunk 5]
```diff
@@ -29,6 +30,8 @@ other variations.
 * `IsProperMap.pi_map`: any product of proper maps is proper.
 * `isProperMap_iff_isClosedMap_and_compact_fibers`: a map is proper if and only if it is
   continuous, closed, and has compact fibers
+* `continuous_iff_isClosed_graph`: a function into a compact Hausdorff space is continuous if and
+  only if its graph is closed
```
Comment (scholzhannah) [inline Mathlib/Topology/Maps/Proper/Basic.lean]: I think in this file this doesn't constitute a main statement anymore.

**Review by scholzhannah — COMMENTED** [review]
I have left some last comments below. 

In general if you have addressed a reviewers comments you should press "Resolve conversation".

**Comment by MaxFeldman1** [comment]
-awaiting-author

File: Mathlib/Topology/Maps/Proper/Basic.lean [hunk 6]
```diff
@@ -346,3 +347,20 @@ theorem IsProperMap.universally_closed (Z) [TopologicalSpace Z] (h : IsProperMap
     IsClosedMap (Prod.map f id : X × Z → Y × Z) :=
   -- `f × id` is proper as a product of proper maps, hence closed.
   (h.prodMap isProperMap_id).isClosedMap
+
+/-- A function into a compact space with a closed graph is continuous. -/
```
Comment (j-loreaux) [inline Mathlib/Topology/Maps/Proper/Basic.lean]: Note that because there is a now a declaration in the root namespace wit the same name, we must mark `LinearMap.continuous_of_isClosed_graph` as `protected`. Please do so.
```suggestion
/-- A function into a compact space with a closed graph is continuous.

For the closed graph theorem of functional analysis, about linear maps between Banach spaces, see
`LinearMap.continuous_of_isClosed_graph`. -/
```

File: Mathlib/Topology/Maps/Proper/Basic.lean [hunk 7]
```diff
@@ -346,3 +347,20 @@ theorem IsProperMap.universally_closed (Z) [TopologicalSpace Z] (h : IsProperMap
...
+theorem continuous_of_isClosed_graph [CompactSpace Y] (hf : IsClosed f.graph) : Continuous f := by
+  rw [continuous_iff_isClosed]
+  intro C hC
+  have h : f ⁻¹' C = Prod.fst '' (f.graph ∩ univ ×ˢ C) := by
+    ext x
+    simp [graph]
+  exact h ▸ isClosedMap_fst_of_compactSpace _ (hf.inter (isClosed_univ.prod hC))
```
Comment (j-loreaux) [inline Mathlib/Topology/Maps/Proper/Basic.lean]: optional:

```suggestion
  convert isClosedMap_fst_of_compactSpace _ (hf.inter (isClosed_univ.prod hC))
  ext
  simp
```

**Comment by MaxFeldman1** [comment]
-awaiting-author

**Comment by j-loreaux** [comment]
@MaxFeldman1 it looks like you didn't push any changes, but presumably you meant to.

**Comment by MaxFeldman1** [comment]
-awaiting-author

**Comment by MaxFeldman1** [comment]
> @MaxFeldman1 it looks like you didn't push any changes, but presumably you meant to.

Sorry about that, I got confused after having resolved prior issues then seeing your comments, should be good now

**Review by j-loreaux — COMMENTED** [review]
bors merge
